US07368578B2
A mixture of 2-tert-butyl-4-chloromethyl-1,3-thiazole (8.66 g) and triethyl phosphite (15.7 g) was stirred at 160° C. for 20 hrs. Excess triethyl phosphite was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:2 to 1:0, v/v) to give diethyl [(2-tert-butyl-1,3-thiazol-4-yl)methyl]phosphonate as a colorless oil (12.0 g, yield 90%).

reactant | 2-tert-butyl-4-chloromethyl-1,3-thiazole | 8.66 g | C(C)(C)(C)C=1SC=C(N1)CCl | C8H12ClNS
reactant | triethyl phosphite | 15.7 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(2-tert-butyl-1,3-thiazol-4-yl)methyl]phosphonate | 12.0 g, yield 90% | C(C)(C)(C)C=1SC=C(N1)CP(OCC)(OCC)=O | C12H22NO3PS
